US07888352B2
4-(Benzyl-methyl-amino)-piperidine-1-carboxylic acid tert-butyl ester was dissolved in DCM and methanol and 2.0M HCl in ether was added. After 3 hours the solvent was removed in vacuo and the residue was recrystallised from ethyl acetate/methanol to yield benzyl-methyl-piperidin-4-yl-amine (hydrochloride salt).

reactant | 4-(Benzyl-methyl-amino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)CC1=CC=CC=C1 | C18H28N2O2
reactant | methanol | CO | CH4O
reactant | HCl | 2.0M | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | benzyl-methyl-piperidin-4-yl-amine | C(C1=CC=CC=C1)N(C1CCNCC1)C | C13H20N2
